US06207830B1
Preparation of 2-chloro-5-(3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1-(2H)Pyrimidinyl)-benzoic acid 1-allyloxycarbonyl-1-methyl-ethyl-ester
0.347 g of potassium tert.butylate (content: 97%, 0.003 mols) are suspended in 30 g of anhydrous dimethylformamide (water content <0.01%), and heated to a temperature of 40° C. Subsequently, 1.97 g of 3-methylamino-4,4,4-trifluorobut-2-enoic acid ethyl ester (content: 99.5%, 0.01 mols) are added at a temperature of 40 to 45° C., and this temperature is maintained for a further 30 minutes, whereby a red-brown solution is produced. After cooling the reaction mixture to a temperature of 0° C., 3.51 g of 5-isocyanato-2-chloro-benzoic acid 1-allyloxycarbonyl-1-methyl-ethyl-ester (content: 97%, 0.0105 mols) are dispensed in over the course of 30 minutes, whereby the temperature is maintained at between 0 and 5° C. After removing the cooling bath, the resultant dark brown solution is stirred for a further 30 minutes, and the pH value of the now dark red solution is adjusted to pH 7 with 2.7 g of 1 M HCl [the content of 2-chloro-5-(3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1-(2H)pyrimidinyl)-benzoic acid 1-allyloxyoarbonyl-1-methyl-ethyl-ester in this solution is 11%, which corresponds to a yield of 89%]. The solvent is subsequently distilled off in a rotary evaporator, and the residue (5.6 g) is recrystallised in 12 g of isopropyl alcohol [the inorganic salts are removed by hot filtration]. After drying in a vacuum drying chamber (60° C. for 12 hours), 4.10 g (86.3% of theory) of 2-ohloro-5-(3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1-(2H)pyrimidinyl)-benzoic acid 1-allyloxycarbonyl-1-methyl-ethyl-ester are obtained in a content of 99%.

reactant | 3-methylamino-4,4,4-trifluorobut-2-enoic acid ethyl ester | 0.01 mols, 1.97 g | C(C)OC(C=C(C(F)(F)F)NC)=O | C7H10F3NO2
reactant | 5-isocyanato-2-chloro-benzoic acid 1-allyloxycarbonyl-1-methyl-ethyl-ester | 0.0105 mols, 3.51 g | C(C=C)OC(=O)C(C)(C)OC(C1=C(C=CC(=C1)N=C=O)Cl)=O | C15H14ClNO5
solvent | dimethylformamide | 30 g | CN(C=O)C | C3H7NO
product | 2-chloro-5-(3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1-(2H)Pyrimidinyl)-benzoic acid 1-allyloxycarbonyl-1-methyl-ethyl-ester | yield of 89% | C(C=C)OC(=O)C(C)(C)OC(C1=C(C=CC(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)Cl)=O | C20H18ClF3N2O6
